data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]1(C2=C(C=CC=C2)C3=C1C=CC=C3)COC(=O)NCC(=O)NC.C1CC[NH:10]CC1.CN(C)C=O>>[H:20][NH+:10]1CCCCC1.CNC(=O)CNC(=O)OC[C-:21]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O 10=20;20,21=21
[B-]([O+:21]1CC[O:10][C:20]1(C)C)(F)(F)F>>[B-]([O:21]CC[O+:10]=[C:20](C)C)(F)(F)F 10=20;20,21=21
[CH:10]1=[CH:11]C(=CC(=C1)Cl)[N+](=O)[O-].[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C(C=C([CH+:11][CH:10]1[Br:20])[N+](=O)[O-])Cl.[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
[B-:10]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(O)[OH+:11]C(CO[Si](C(C)C)(C(C)C)C(C)C)C(C)C=C.[OH-].[Na+]>>[B:10]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)O.CC(C)[Si](C(C)C)(C(C)C)OCC(C(C)C=C)[OH:11].[OH-].[Na+] 10,11=11
[B:20]([O+](C)C1=C(C=C(C=C1)CCC)C)(Br)Br.[Br-:10]>>[B-:20]([O+](C)C1=C(C=C(C=C1)CCC)C)(Br)(Br)[Br:10] 10=20,
[H:20][CH:21](C=O)[CH+:22]C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[CH:22]=[CH:21]C=O 10=20;20,21=21,22
C[NH:10]C.Cl[Cu:20]Cl>>C[NH+:10](C)[Cu-:20](Cl)Cl 10=20,
C1=C(C=C([C:11](=[CH:10]1)N)Br)Br.[Br:20][Br:21]>>C1=C(C=C([C+:11]([CH:10]1[Br:20])N)Br)Br.[Br-:21] 10,11=10,20;20,21=21
[B:20](F)(F)F.C1CCC2(C1)C(=[O:10])C3=C(N2)C=CC=C3>>[B-:20]([O+:10]=C1C2=C(C=CC=C2)NC13CCCC3)(F)(F)F 10=20,
[H:20][C:21]#N.C(=[N-:10])C#N>>[H:20][N:10]=CC#N.[C-:21]#N 10=20;20,21=21
C1C[C:11]2(C3(CC1[C:10]24C=CC=C[C+:20]4N3)C5=C(C=CC=C5)Br)[OH:12].C(=O)[O-]>>C1C[C:11](=[OH+:12])C2(CC1[C:10]3=[C:20](N2)C=CC=C3)C4=C(C=CC=C4)Br.C(=O)[O-] 10,11=10,20;12=11
C[C:20](=[OH+:21])C.C(CO)[OH:10]>>C[C:20](C)([OH:21])[OH+:10]CCO 10=20;20,21=21
COC1CC2[C:11]3(C=C1)C4[C:10]35C=C6C(=C[C+:20]5CN2C4)OCO6.CS(=O)(=O)[O-].[OH-]>>COC1CC2[C+:11](C=C1)C3CN2C[C:20]4=[C:10]3C=C5C(=C4)OCO5.CS(=O)(=O)[O-].[OH-] 10,11=10,20
C[C:10](COC1=CC=C(C=C1)OC)(C2(CC2)SC3=CC=CC=C3)[OH2+:11].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[C+:10](COC1=CC=C(C=C1)OC)C2(CC2)SC3=CC=CC=C3.[OH2:11].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10,11=11
[Li+:20].CC(C)CC(=[O:10])C1=CC=CC=C1.CCCC[O-]>>[Li:20][O+:10]=C(CC(C)C)C1=CC=CC=C1.CCCC[O-] 10=20,
[H:20][CH:21]([CH:22]=[N+:23](C)C1=CC=CC=C1)C(C)CCC=C(C)C=O.C[NH:10]C1=CC=CC=C1.O>>[H:20][NH+:10](C)C1=CC=CC=C1.CC(CCC=C(C)C=O)[CH:21]=[CH:22][N:23](C)C1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
[H:20][O+:21]1CCCC1CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CC([O:21]C1)CO 10=20;20,21=21
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)C2=NNC=C2)C.CC(=O)[O-:10].O>>CC1=C[CH:21]=[C:22]([N:23]1C2=NNC=C2)C.[H:20][O:10]C(=O)C.O 10=20;22,23=23;20,21=21,22
CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3C4C(C[CH:20]=[O+:21]3)OC(=O)O4.C[Si](C)(C)C[CH:11]=[CH2:10].CCO[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3C4C(C[CH:20]([O:21]3)[CH2:10][CH+:11]C[Si](C)(C)C)OC(=O)O4.CCO[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21
[H:20][NH2+:21]C=N.[C-:10]#N.N.O>>[H:20][C:10]#N.C(=N)[NH2:21].N.O 10=20;20,21=21
[B:20](OCCCC)(OCCCC)OC(C1=CC=CC=C1)C(C)C(=O)N2C(COC2=O)CC3=CC=CC=C3.[OH2:10].OO>>[B-:20]([OH2+:10])(OCCCC)(OCCCC)OC(C1=CC=CC=C1)C(C)C(=O)N2C(COC2=O)CC3=CC=CC=C3.OO 10=20,
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=CC2=C(C=C1)NC=C2CC[O-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CCC4=CNC5=C4C=CC=C5)Br.C(Br)(Br)Br 10=20,
[H:20][OH2+:21].CCC[N:10]1C(=O)C2=C(C1(O)O)C=CC=C2>>[H:20][N+:10]1(C(=O)C2=C(C1(O)O)C=CC=C2)CCC.[OH2:21] 10=20;20,21=21
CCCC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)CCC>>CCCC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)CCC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C(C=C)(O)OCC.[OH2:10]>>CCOC(C=C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
CC(=O)OC(C1=C(C=CC=C1O)OC)C(C(=O)[O-:10])NC(=O)C2=CC=CC=C2.CC(=O)O[C:20](=[O:21])C.C(=O)(O)O[K].[K+]>>CC(=O)OC(C1=C(C=CC=C1O)OC)C(C(=O)[O:10][C:20](C)([O-:21])OC(=O)C)NC(=O)C2=CC=CC=C2.C(=O)(O)O[K].[K+] 10=20;20,21=21
[Li+:20].COP(=O)(CC=[O:10])OC>>[Li:20][O+:10]=CCP(=O)(OC)OC 10=20,
[H:10][C:11]12C3CC4C(CC3(C5(C[C:20]1=[O+:21][Al-]([O:12]2)(OC(C)C)OC(C)C)OCCO5)C)OC(O4)(C)C.CC(C)O>>[H:10][C:20]12CC3(C4(CC5C(CC4[C:11]1=[O+:12][Al-]([O:21]2)(OC(C)C)OC(C)C)OC(O5)(C)C)C)OCCO3.CC(C)O 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C)C#N.[OH-:10]>>[H:20][OH:10].C[CH-:21]C#N 10=20;20,21=21
[H:20][C:21](C)(C(=O)OCC)C(=O)OCC.[H:10][Na:11]>>CCOC(=O)[C-:21](C)C(=O)OCC.[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CN[C:20](=[O:21])OC.C[O-:10]>>CN[C:20]([O-:21])(OC)[O:10]C 10=20;20,21=21
CC(CCC[NH2:10])OS(=O)(=O)C(F)(F)F.C[C:20](=[O:21])OC(=NC1CCCCC1)NC2CCCCC2>>CC(CCC[NH2+:10][C:20](C)([O-:21])OC(=NC1CCCCC1)NC2CCCCC2)OS(=O)(=O)C(F)(F)F 10=20;20,21=21
C1=C[CH:10]=[C:11](C=C1)O.[Br:20][Br:21]>>C1=C[CH:10]([C+:11](C=C1)O)[Br:20].[Br-:21] 10,11=10,20;20,21=21
C[O-].C1=CC=C(C=C1)[C:20](=[O:21])C2=CC=CC=C2.C1=CC=[C:10](C=C1)[Mg:11]Br.[Mg+]Br>>C[O-].C1=CC=C(C=C1)[C:20](C2=CC=CC=C2)([C:10]3=CC=CC=C3)[O-:21].[Mg+:11]Br.[Mg+]Br 10,11=10,20;20,21=21
[Li]OC1C2=C(C=CC=C2)C(C1(C)C)[C-:10]3SCCCS3.CCC[CH2:20][Br:21].[Li+]>>[Li]OC1C2=C(C=CC=C2)C(C1(C)C)[C:10]3(SCCCS3)[CH2:20]CCC.[Br-:21].[Li+] 10=20;20,21=21
[H:20][CH:21]1CCC[C:22]1=[O:23].CC[O-:10]>>[H:20][O:10]CC.C1C[CH:21]=[C:22](C1)[O-:23] 10=20;22,23=23;20,21=21,22
